US07776869B2
A mixture of 1-(2-morpholinoethyl)-3-(4-nitro-2-(trifluoromethyl)phenyl)urea (651 mg, 1.80 mmol, 1.0 equiv) and 10% Pd/C (20 mg) in EtOAc (25 mL) and MeOH (2 mL) was exposed to an atmosphere of H2 (balloon). Upon completion of the reduction, the reaction mixture was filtered through celite and concentrated in vacuo to afford 1-(4-amino-2-(trifluoromethyl)phenyl)-3-(2-morpholinoethyl)urea, which was advanced without further purification. MS m/z: 333 (M+H+); Calculated for C14H19F3N4O2: 332.2

reactant | 1-(2-morpholinoethyl)-3-(4-nitro-2-(trifluoromethyl)phenyl)urea | 1.80 mmol, 651 mg, 1.0 equiv | O1CCN(CC1)CCNC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C14H17F3N4O4
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 1-(4-amino-2-(trifluoromethyl)phenyl)-3-(2-morpholinoethyl)urea | NC1=CC(=C(C=C1)NC(=O)NCCN1CCOCC1)C(F)(F)F | C14H19F3N4O2
